US05847149
4-Pentylcyclohexylcarbinol (1.5 g, 8.15 mmol) are dissolved in dimethylformamide (40 ml), and sodium hydride (0.3 g, 12.23 mmol) is added at room temperature over a period of about 15 minutes. When the gas evolution is complete, 2-bromo-5-phenyl-1,3,4-thiadiazole (2.95 g, 12.23 mmol) is added to the resultant alkoxide, and the mixture is subsequently stirred at 50° C. for 6 hours, poured onto an ice/water mixture, filtered with suction and extracted. Separation by column chromatography (SiO2, CH2Cl2) gives 1.2 g (43% of theory) of 2-bromo-5-(4-pentylcyclohexylmethoxy)-1,3,4-thiadiazole.

reactant | 4-Pentylcyclohexylcarbinol | 8.15 mmol, 1.5 g | C(CCCC)C1CCC(CC1)CO | C12H24O
reactant | sodium hydride | 12.23 mmol, 0.3 g | [H-].[Na+]
reactant | 2-bromo-5-phenyl-1,3,4-thiadiazole | 12.23 mmol, 2.95 g | BrC=1SC(=NN1)C1=CC=CC=C1 | C8H5BrN2S
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-bromo-5-(4-pentylcyclohexylmethoxy)-1,3,4-thiadiazole | 1.2 g, 43% | BrC=1SC(=NN1)OCC1CCC(CC1)CCCCC | C14H23BrN2OS
